US06124283
(R)-N-[8-(4-Pentylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]acetamide
To an ice-cooled solution of (R)-2-amino-8-(4-pentylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (170 mg, 0.57 mmol) and triethylamine (86 μL, 0.86 mmol) in methylene chloride (30 mL) was added dropwise acetyl chloride (41 μL, 0.57 mmol) in methylene chloride (10 mL). After the addition the reaction was allowed to stir at ambient temperature for 15 min and was then washed with water. The methylene chloride phase was dried (Na2SO4), filtered and evaporated in vacuo. The residue crystallized from diethyl ether/hexane. This gave 120 mg (62% yield) of the title compound as white crystals: mp 119-120° C.; [α]21D +25° (c 0.97, chloroform); EIMS (70 eV) m/z (relative intensity) 343 (49, M+).

reactant | (R)-2-amino-8-(4-pentylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.57 mmol, 170 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)CCCCC | C19H31N3
reactant | triethylamine | 0.86 mmol, 86 μL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.57 mmol, 41 μL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[8-(4-Pentylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]acetamide | 120 mg, 62% yield | C(CCCC)N1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C)=O | C21H33N3O
